US07888503B2
A round-bottomed flask was charged with (2-amino-5-bromophenyl)(2-fluorophenyl)methanone (1.45 g), 9H-fluoren-9-ylmethyl (2-chloro-2-oxoethyl)carbamate (1.6 g) and chloroform (150 mL). The mixture was heated to reflux for 2 h then concentrated to dryness. The residue was taken up in a mixture of a saturated solution of sodium bicarbonate and ethyl acetate. The resulting solids were collected on a filter and washed first with water then with diethyl ether. Thorough air-drying provided 9H-fluoren-9-ylmethyl [2-({4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}amino)-2-oxoethyl]carbamate (2 g) as a light yellow powder. H1 NMR (d6-dmso): 10.8 (br s, 1H), 7.95 (d, 1H), 7.75-7.90 (m, 4H), 7.45-7.70 (m, 5H), 7.20-7.42 (m, 6H), 4.30 (d, 2H), 4.20 (t, 1H), 3.65 (d, 2H).

reactant | (2-amino-5-bromophenyl)(2-fluorophenyl)methanone | 1.45 g | NC1=C(C=C(C=C1)Br)C(=O)C1=C(C=CC=C1)F | C13H9BrFNO
reactant | 9H-fluoren-9-ylmethyl (2-chloro-2-oxoethyl)carbamate | 1.6 g | ClC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C17H14ClNO3
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 9H-fluoren-9-ylmethyl [2-({4-bromo-2-[(2-fluorophenyl)carbonyl]phenyl}amino)-2-oxoethyl]carbamate | 2 g | BrC1=CC(=C(C=C1)NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)C(=O)C1=C(C=CC=C1)F | C30H22BrFN2O4
